US04423244
(A) 2-Acetyl-5-bromo-6-methoxy-naphthalene (Compound V)
A suspension of 43 g of anhydrous AlCl3 and 24.6 g (0.313 mole) of acetyl chloride in 200 ml of 1,2-dichloroethane at 10° C. was cooled to 0° C. and added dropwise under stirring with a solution of 59.25 g (0.250 mole) of 1-bromo-2-methoxy-naphthalene in 150 ml of 1,2-dichloroethane. The resulting solution was stirred for 15 minutes then poured into a cold solution of 300 ml of water and 100 ml of 2 N hydrochloric acid. The organic phase was separated, washed first with 100 ml of 1 N hydrochloric acid and then with 100 ml of water, dried under vacuum and the obtained residue was crystallized from 2-butanol. Yield 68.11 g (98%).

reactant | AlCl3 | 43 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | acetyl chloride | 0.313 mole, 24.6 g | C(C)(=O)Cl | C2H3ClO
reactant | 1-bromo-2-methoxy-naphthalene | 0.250 mole, 59.25 g | BrC1=C(C=CC2=CC=CC=C12)OC | C11H9BrO
reactant | hydrochloric acid | 2 N, 100 ml | Cl | ClH
solvent | 1,2-dichloroethane | 200 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 150 ml | ClCCCl | C2H4Cl2
solvent | water | 300 ml | O | H2O
product | 2-Acetyl-5-bromo-6-methoxy-naphthalene | C(C)(=O)C1=CC2=CC=C(C(=C2C=C1)Br)OC | C13H11BrO2
